US04382939
1,2,3,4-Tetrahydro-5H-[1,3]benzodioxolo[5',6':5,6]pyrano[3,4-c]pyridin-5-one hydrochloride
A mixture of 3,4-methylenedioxyphenol (125 g, 0.91 moles) and methyl 4-oxo-3-piperidinecarboxylate hydrochloride (125 g, 0.65 moles) is cooled in ice and treated over one hour with 600 ml of 72% sulfuric acid. The mixture is then stirred at room temperature for 64 hours. Ice/water (1.0 kg) is added, followed by conc. ammonium hydroxide, until the pH of the mixture is 9.0. The crude product is filtered, stirred briefly in 2.5% aqueous sodium hydroxide (1.0 l), and refiltered. Several recrystallizations from dilute aqueous hydrochloric acid yielded the product (86.2 g) as the hydrochloride, mp 258°-259° C.

reactant | 3,4-methylenedioxyphenol | 0.91 moles, 125 g | C1OC=2C=C(C=CC2O1)O | C7H6O3
reactant | methyl 4-oxo-3-piperidinecarboxylate hydrochloride | 0.65 moles, 125 g | Cl.O=C1C(CNCC1)C(=O)OC
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | sulfuric acid | 600 ml | S(O)(O)(=O)=O | H2O4S
product | 1,2,3,4-Tetrahydro-5H-[1,3]benzodioxolo[5',6':5,6]pyrano[3,4-c]pyridin-5-one hydrochloride | 86.2 g | Cl.C1C2=C(CNC1)C(OC1=C2C=C2OCOC2=C1)=O | InChI=1S/C13H11NO4.ClH/c15-13-9-5-14-2-1-7(9)8-3-11-12(17-6-16-11)4-10(8)18-13;/h3-4,14H,1-2,5-6H2;1H
